US08242129B2
5-[6-(2-Chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]thiophene-2-carboxamide
5-[6-(2-Chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]thiophene-2-carboxylic acid (100 mg, 0.30 mmol) was suspended in 1 mL of formamide. The reaction mixture was stirred for 30 minutes at 200° C. After cooling, the precipitate was filtered, dissolved in 1 mL dimethylformamide and purified by reverse phase HPLC. 30 mg of product were isolated.

reactant | 5-[6-(2-Chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]thiophene-2-carboxylic acid | 0.30 mmol, 100 mg | ClC1=C(C=CC=C1)C1=CC(=NC(N1)=O)C1=CC=C(S1)C(=O)O | C15H9ClN2O3S
reactant | formamide | 1 mL | C(=O)N | CH3NO
product | 5-[6-(2-Chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]thiophene-2-carboxamide | 30 mg | ClC1=C(C=CC=C1)C1=CC(=NC(N1)=O)C1=CC=C(S1)C(=O)N | C15H10ClN3O2S
